US05244771
Under an atmosphere of nitrogen, a mixture of 5.0 g of 4-methoxy-1-naphthol and 50 mL chloroform was mechanically stirred with 10.0 g silver oxide until the conversion to Russig's Blue was complete. The unreacted silver oxide was filtered and washed with chloroform. The filtrate and chloroform washings were combined and stirred with 4.9 g of 4-methoxy-1-naphthol until the solution turned gray. The solution was then concentrated to 50 mL and the resulting precipitate was filtered, washed with chloroform and dried to yield 3.18 g of 1,1'-dimethoxy-3,3'-binaphthyl-4,4'-diol as a light gray solid. The structure was confirmed by NMR.

reactant | 4-methoxy-1-naphthol | 5.0 g | COC1=CC=C(C2=CC=CC=C12)O | C11H10O2
reactant | Russig's Blue | COC1=C/C(=C\2/C=C(C3=CC=CC=C3C2=O)OC)/C(=O)C4=CC=CC=C41 | C22H16O4
catalyst | silver oxide | 10.0 g | [Ag]=O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,1'-dimethoxy-3,3'-binaphthyl-4,4'-diol | 3.18 g | COC1=CC(=C(C2=CC=CC=C12)O)C=1C=C(C2=CC=CC=C2C1O)OC | C22H18O4
